US06846819B1
Preparation of (E)-3-(6-aminopyridin-3-yl)-N—(1,3-dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide
To a stirred solution of 1,3-dimethyl-2-(methylaminomethyl)-1H-indole (0.6 g, 3.2 mmole) in 1:1 DMF(CH2Cl2 (25 mL) was added (E)-3-(6aminopyridin-3-yl)acrylicacid (0.50 g, 3 mmole), HOBt H2O (0.43 g, 3.2 mmole), and DCC (0.66 g, 3.2 mmole). After stirring at RT for 16 hr the reaction was concentrated under vacuum. Purification by flash chromatography on silica gel (3% methanoUCHCl3) gave the title compound (0.83 g, 83%) as an off-white solid: LCMS (ES) n/e 335.4 (M+H)+.

reactant | 1,3-dimethyl-2-(methylaminomethyl)-1H-indole | 3.2 mmole, 0.6 g | CN1C(=C(C2=CC=CC=C12)C)CNC | C12H16N2
reactant | (E)-3-(6aminopyridin-3-yl)acrylicacid | 3 mmole, 0.50 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | HOBt H2O | 3.2 mmole, 0.43 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | DCC | 3.2 mmole, 0.66 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-3-(6-aminopyridin-3-yl)-N—(1,3-dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide | 0.83 g, 83% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC=1N(C2=CC=CC=C2C1C)C | C20H22N4O
